* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4891-4 1 2 3 4 5
C1 Clamp COM {Cfp1}
B1 COM Clamp I=Uplim(Dnlim({Aol2/1Meg}*V(Aol1,COM), {Isink},1m),{Isrc},1m)
G2 0 Vcc_Int N031 0 1
G3 0 Vee_Int N033 0 1
R6 Vcc_Int 0 1 Temp=-273.15
R7 Vee_Int 0 1 Temp=-273.15
R8 N029 Vcc_Int 1Meg Temp=-273.15
R9 N029 Vee_Int 1Meg Temp=-273.15
C2 N029 0 1
R25 Aol2 COM 1Meg Temp=-273.15
G7 COM Aol2 Clamp COM 1µ
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
R1 N003 1 {Rser} Temp=-273.15
R82 N033 4 1µ Temp=-273.15
A1 Inn1 Inp1 COM COM COM COM Aol1 COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R47 N031 3 1µ Temp=-273.15
R45 Vimon COM 1k Temp=-273.15
C34 COM 0 1n
G30 N031 N033 Vimon COM 1
C38 Aol2 COM {Cfp2}
Vimon N017 5 0
F1 COM Vimon Vimon 1m
DGP N025 Clamp DG
DGN Clamp N026 DG
C19 Satn COM 1n
R21 Satn COM 1k Temp=-273.15
VGN N026 N028 0
VGP N025 N027 0
G18 N011 Inp1 N021 N020 1m
R51 Inp1 N011 1k Temp=-273.15
C32 N021 N022 {C1a_PSRp}
G19 COM N022 VCC_Int COM {G1_PSRp}
R52 N022 COM 1 Temp=-273.15
R55 N021 N022 {R1a_PSRp} Temp=-273.15
R56 N021 COM {R2a_PSRp} Temp=-273.15
C33 N020 N019 {C1a_PSRn}
G20 COM N019 VEE_Int COM {G1_PSRn}
R57 N019 COM 1 Temp=-273.15
R58 N020 N019 {R1a_PSRn} Temp=-273.15
R59 N020 COM {R2a_PSRn} Temp=-273.15
R76 N004 N009 1k Temp=-273.15
B17 N009 N004 I=1m*{Vos+Drift* (Temp-27)}
G32 N005 N006 N002 COM 1m
R77 N006 N005 1k Temp=-273.15
R79 N005 N004 1k Temp=-273.15
G33 N004 N005 E_n COM 1m
C39 N002 N001 {C1a_CMR}
G34 COM N001 N003 COM {G1_CMR}
R80 N002 N001 {R1a_CMR} Temp=-273.15
R81 N002 COM {R2a_CMR} Temp=-273.15
R83 N001 COM 1 Temp=-273.15
G35 COM IVR N003 COM 1m
G36 COM Inn1 N024 COM 1k
R84 COM IVR 1k Temp=-273.15
R85 COM Inn1 1m Temp=-273.15
C40 Inn1 COM 1.59n
C41 IVR COM 1.59f
Ibn N024 COM {Ib-Ios}
R2 N024 2 {Rser} Temp=-273.15
Cinp COM N003 {Ccm}
Cinn N024 COM {Ccm}
Rinn N024 COM {Rcm} Temp=-273.15
Rinp COM N003 {Rcm} Temp=-273.15
G28 COM N011 N006 COM 1k
R72 COM N011 1m Temp=-273.15
C42 N011 COM 1.59n
C43 Aol1 COM 1.59e-18
G15 COM N027 GRpi COM 1k
G16 COM N028 GRni COM 1k
R11 N027 COM 1m Temp=-273.15
R12 N028 COM 1m Temp=-273.15
R37 GRpi COM 1k Temp=-273.15
R44 GRni COM 1k Temp=-273.15
C6 GRni COM 10p
C7 GRpi COM 10p
S2 3 5 5 3 ESDO
S3 5 4 4 5 ESDO
DOP Vsatp N017 DO
DON N017 Vsatn DO
G5 COM Vsatp Satp COM 1k
R92 Vsatp COM 1m
G6 COM Vsatn Satn COM 1k
R93 Vsatn COM 1m
C10 Vimon COM 1.59f
S4 3 N009 N009 3 ESDI
S5 3 Inn1 Inn1 3 ESDI
S6 N009 4 4 N009 ESDI
S7 Inn1 4 4 Inn1 ESDI
C9 N017 Vsatp 1f
C16 N017 Vsatn 1f
C27 Clamp N027 1f
C44 Clamp N028 1f
Cdiff N003 N024 {Cdiff}
C17 Vsatp COM 1n
C23 Vsatn COM 1n
E1 COM 0 N029 0 1
R10 COM 0 1Meg Temp=-273.15
C51 N020 COM 1f
C52 N021 COM 1f
B3 COM CMpi I=1m*(V(3,COM)+{Vcm_max}) Cpar=1n
G17 COM CMp CMpi COM 1k
R53 COM CMp 1m Temp=-273.15
B8 COM CMni I=1m*(V(4,COM)+{Vcm_min}) Cpar=1n
G22 COM CMn CMni COM 1k
R54 COM CMn 1m Temp=-273.15
R62 CMpi COM 1k Temp=-273.15
R88 CMni COM 1k Temp=-273.15
DIP CMp IVR DI
DIN IVR CMn DI
C54 IVR CMn 1f
C48 IVR CMp 1f
G14 COM N009 IVR COM 1k
R14 COM N009 1m Temp=-273.15
C49 N009 COM 1.59n
Rdiff N003 N024 {Rdiff} Temp=-273.15
B2 COM Satp I=1m*Min(V(Vsatp1,COM), V(Vsatp2,COM))
C11 Satp COM 1n
R18 Satp COM 1k Temp=-273.15
R28 N012 COM 1Meg Temp=-273.15
C50 N012 COM {Cfp3}
R29 N013 COM 1Meg Temp=-273.15
G42 COM N013 N012 COM 1µ
C53 N013 COM {Cfp4}
R30 N014 COM 1Meg Temp=-273.15
G43 COM N014 N013 COM 1µ
C55 N014 COM {Cfp5}
R31 N015 COM 1Meg Temp=-273.15
G44 COM N015 N014 COM 1µ
C56 N015 COM {Cfp6}
B6 Vsatp1 Vcc_Int I=1m*Max(Mp1*(I(Vimon))+OSp1,OSp1)
R5 Vsatp1 Vcc_Int 1k
C4 Vsatp1 Vcc_Int 1n
B9 Vsatp2 Vcc_Int I=1m*Max(Mp2*(I(Vimon))+OSp2,OSp1)
R34 Vsatp2 Vcc_Int 1k
C26 Vsatp2 Vcc_Int 1n
B13 COM GRpi I=1m*({Zo_max}* {Iscp}+V(3,COM))
B14 COM GRni I=1m*({Zo_max}* {Iscn}+V(4,COM))
A3 COM COM COM COM COM COM E_n COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k EN=IF(freq>600, freq*Pwr(({A2}+{B2}*Pwr(freq,{C2})),(-1/{C2}))+0.36n, freq*Pwr(({A1}+{B1}*Pwr(freq,{C1})),(-1/{C1})))
R35 E_n COM 100k Temp=-273.15
Rx Zo_out N016 {Rx_Zo} Noiseless
Rdummy Zo_out COM {Rdummy_Zo} Noiseless
B11 COM N016 I=Uplim(Dnlim({G1_Zo}* V(Zo_in,Zo_out), {Izon}, 25m), {Izop}, 25m)
G1 COM N012 Aol2 COM 1µ
Lout Zo_out N017 7n
Cout N017 COM 1.3p
R23 N007 COM 9.7724 Noiseless
L1 N007 N008 5.413e-9
C5 N008 N007 106.103e-12
G4 COM N007 N015 COM 0.1
G8 COM Zo_in N007 COM 1.0233
R16 Zo_in COM 1 Noiseless
Ibp N003 COM {Ib}
B4 Vee_Int Vsatn1 I=1m*Max(Mn1*(-I(Vimon))+OSn1,OSn1)
R3 Vsatn1 Vee_Int 1k
C3 Vsatn1 Vee_Int 1n
B5 Vee_Int Vsatn2 I=1m*Max(Mn2*(-I(Vimon))+OSn2,OSn1)
R4 Vsatn2 Vee_Int 1k
C8 Vsatn2 Vee_Int 1n
B7 Vee_Int Vsatn3 I=1m*Max(Mn3*(-I(Vimon))+OSn3,OSn1)
R13 Vsatn3 Vee_Int 1k
C12 Vsatn3 Vee_Int 1n
B10 COM Satn I=1m*Max(Min(V(Vsatn1,COM), V(Vsatn2,COM)),V(Vsatn3,COM))
R17 Aol1 COM 1Meg Temp=-273.15
R19 Clamp COM 1Meg Temp=-273.15
R20 N016 COM 1 Temp=-273.15
I2 N031 N033 {Iq_on}
.param Vos=-675u Drift=6u
.param Ib=252.06p Ios=498.6p
.param Vcm_min=-0.3 Vcm_max=-0.8
.param Vsmin=2.7 Vsmax=5.5
.param Iscp=205m Iscn=-307m
.param Iq_on=4.4m Iq_off=0.8m
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
.param ENVt=2.6 ENVh=10m
.param ENTon=166n ENToff=49n
.param Ipd_on=65n Ipd_off=-22u
.model DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.model DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless )
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model PD D(Ron=0.5 Epsilon=0.1 Noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=700m Vh=-350m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron=1 Roff=1u Vt=500m Vh=-100m Noiseless)
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Cfp4={1 / (2 * pi * fp4 * 1Meg)}
.param Cfp5={1 / (2 * pi * fp5 * 1Meg)}
.param Cfp6={1 / (2 * pi * fp6 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Aol_PB=83.6
.param SRp=204.1 SRn=-252.2
.param fp1=6.95k fp2=650Meg fp3=800Meg
.param fp4=1.2G fp5=1.5G fp6=1.7G
.param Rser=1m
.param Ccm=2.2p Rcm=5G
.param Cdiff=0.8p Rdiff=10Meg
.param Rej_dc_CMR=88
.param R1a_CMR=1Meg
.param fz1_CMR=27k
.param fp1_CMR=35Meg
.param Rej_dc_PSRp=65
.param R1a_PSRp=1Meg
.param fz1_PSRp=125k
.param fp1_PSRp=16Meg
.param Rej_dc_PSRn=63
.param R1a_PSRn=1Meg
.param fz1_PSRn=250k
.param fp1_PSRn=75Meg
.param A1=-2.5 B1=5.17 C1=77.5m
.param A2=-79.9 B2=54.6 C2=211m
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=35.81
.param Zo_max={Zo_dc}
.param Mp1=6.09 OSp1=30m
.param Mn1=5.12 OSn1=4.75m
.param Mp2=6.8 OSp2=-10m
.param Mn2=4.24 OSn2=20m
.param Mn3=8.47 OSn3=-360m
.ends ADA4891-4
